US07173129B2
4-{3E-[5-(1H-Indol-2-yl)-2,4-dimethoxyphenyl]acryloyl}-N-isobutyrylbenzenesulfonamide
To a suspension of 4-{3E-[5-(1H-indol-2-yl)-2,4-dimethoxyphenyl]acryloyl}benzenesulfonamide (Ex-35E, 1.84 g, 4 mmol) in 100 ml of THF, isobutyric anhydride (1.26 g, 8 mmol), triethylamine (0.42 g, 4.2 mmol) and N-dimethylaminopyridine (0.049 g, 0.4 mmol) were added. The mixture was aged at room temperature overnight and then poured into water (100 ml) and extracted with CH2Cl2 (3×100 ml). The combined organic phases were washed with 0.5 N HCl, H2O and brine, and concentrated. Recrystallization from EtOAc/hexanes gave 1.8 g (87%) of the title compound as a red solid, mp 243–245° C. (dec.). 1H-NMR (300 MHz, CD3COCD3) δ 10.54 (brs, 1H), 8.35(s, 1H), 8.27 (d, J=8 Hz, 2H), 8.18 (d, J=16Hz, 1H), 8.15 (d, J=8 Hz, 2H), 7.90 (d, J=16 Hz, 1H), 7.52 (d, J=8 Hz, 1H), 7.38 (d, J=8 Hz, 1H), 6.91–7.07 (m, 4H), 4.10 (s, 3H), 4.05 (s, 3H), 2.58 (septet, J=6 Hz, 1H), 1.02 (d, J=6 Hz, 6H). HRMS (ESI) Calcd. for C29H28N2O6S: 533.1746 (M+H)+; Found: 533.1746.

reactant | 4-{3E-[5-(1H-indol-2-yl)-2,4-dimethoxyphenyl]acryloyl}benzenesulfonamide | 4 mmol, 1.84 g | N1C(=CC2=CC=CC=C12)C=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)N)OC)OC | C25H22N2O5S
reactant | isobutyric anhydride | 8 mmol, 1.26 g | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
reactant | triethylamine | 4.2 mmol, 0.42 g | C(C)N(CC)CC | C6H15N
reactant | N-dimethylaminopyridine | 0.4 mmol, 0.049 g | CN(N1CC=CC=C1)C | C7H12N2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 4-{3E-[5-(1H-Indol-2-yl)-2,4-dimethoxyphenyl]acryloyl}-N-isobutyrylbenzenesulfonamide | 1.8 g, 87% | N1C(=CC2=CC=CC=C12)C=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)NC(C(C)C)=O)OC)OC | C29H28N2O6S
